** sch_path: CDR4176-main/schematic/xschem/8xPI_top/8xPI_top.sch
**.subckt 8xPI_top VDD VS[4],VS[3],VS[2],VS[1],VS[0] VOUT VCONT VSS
*.ipin VCONT
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[4],VS[3],VS[2],VS[1],VS[0]
x1 VI VIB VQ VQB VSQ[1] VSQ[0] VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VSQ[2] VOUT VDD VSS 8xPI
x2 VI VQ VDD VCONT VIB VSS VQB clock_gen
x3 VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VS[2] VS[1] VS[0] VDD VSS 3to7_deco_v2
x4 VDD VSQ[2] VSQ[1] VSQ[0] VS[4] VS[3] VSS VSTQ[7] VSTQ[6] VSTQ[5] VSTQ[4] VSTQ[3] VSTQ[2] VSTQ[1] VST[7] VST[6] VST[5] VST[4]
+ VST[3] VST[2] VST[1] 8xPI_logic
**.ends

* expanding   symbol:  CDR4176-main/schematic/xschem/8xPI/8xPI.sym # of pins=9
** sym_path: CDR4176-main/schematic/xschem/8xPI/8xPI.sym
** sch_path: CDR4176-main/schematic/xschem/8xPI/8xPI.sch
.subckt 8xPI VINI VINIB VINQ VINQB VS[1] VS[0] VST[7] VST[6] VST[5] VST[4] VST[3] VST[2] VST[1] VST[0] VOUT VDD VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[1],VS[0]
*.ipin VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0]
x1[7] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[7] MUX_4_1
x1[6] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[6] MUX_4_1
x1[5] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[5] MUX_4_1
x1[4] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[4] MUX_4_1
x1[3] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[3] MUX_4_1
x1[2] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[2] MUX_4_1
x1[1] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[1] MUX_4_1
x1[0] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[0] MUX_4_1
x2 VDD net2 net1 VSS inv_PI
x1 VDD VOUT net2 VSS buff_PI_d16
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/clock_gen/clock_gen.sym # of pins=7
** sym_path: CDR4176-main/schematic/xschem/clock_gen/clock_gen.sym
** sch_path: CDR4176-main/schematic/xschem/clock_gen/clock_gen.sch
.subckt clock_gen PH0 PH90 VDD CTRL PH180 VSS PH270
*.iopin VDD
*.iopin VSS
*.ipin CTRL
*.opin PH0
*.opin PH90
*.opin PH180
*.opin PH270
x1 CTRL v0 v3 v2 v5 v4 v1 VSS VDD 6ph_rosc
x22 VDD PH0 v0 v1 VSS PH90 v2 v3 PH180 v4 PH270 v5 6to4
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/3to7_deco_v2/3to7_deco_v2.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/3to7_deco_v2/3to7_deco_v2.sym
** sch_path: CDR4176-main/schematic/xschem/3to7_deco_v2/3to7_deco_v2.sch
.subckt 3to7_deco_v2 ST[7] ST[6] ST[5] ST[4] ST[3] ST[2] ST[1] S[2] S[1] S[0] VDD VSS
*.opin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.ipin S[2],S[1],S[0]
*.iopin VDD
*.iopin VSS
x1 VDD net3 S[2] VSS inv
x2 VDD net2 S[1] VSS inv
x3 VDD net1 S[0] VSS inv
x4 VDD net1 net2 net3 ST[1] VSS nor_x3_custom
x5 VDD net2 ST[2] net3 VSS nor_custom
x6 VDD net5 ST[3] net3 VSS nor_custom
x7 VDD ST[4] net3 VSS inv
x8 VDD ST[5] net4 net3 VSS nand_custom
x9 VDD ST[6] net2 net3 VSS nand_custom
x11 VDD net5 net2 net1 VSS and_custom
x12 VDD net1 net4 net2 VSS or_custom
x10 VDD ST[7] net1 net2 net3 VSS nand_x3_custom
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/8xPI_logic/8xPI_logic.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/8xPI_logic/8xPI_logic.sym
** sch_path: CDR4176-main/schematic/xschem/8xPI_logic/8xPI_logic.sch
.subckt 8xPI_logic VDD SQ[2] SQ[1] SQ[0] S[4] S[3] VSS STQ[7] STQ[6] STQ[5] STQ[4] STQ[3] STQ[2] STQ[1] ST[7] ST[6] ST[5] ST[4]
+ ST[3] ST[2] ST[1]
*.ipin S[4],S[3]
*.iopin VSS
*.opin STQ[7],STQ[6],STQ[5],STQ[4],STQ[3],STQ[2],STQ[1]
*.ipin ST[7],ST[6],ST[5],ST[4],ST[3],ST[2],ST[1]
*.iopin VDD
*.opin SQ[2],SQ[1],SQ[0]
x1 VDD net1 S[4] VSS inv
x2 VDD SQ[1] net1 VSS inv
x3 VDD S[3] VSS SQ[0] S[4] xor_custom
x4 VDD net2 S[3] VSS inv
x5 VDD SQ[2] net2 VSS inv
x6[6] VDD SCb[7] Sbuff[3] VSS inv
x6[5] VDD SCb[6] Sbuff[3] VSS inv
x6[4] VDD SCb[5] Sbuff[3] VSS inv
x6[3] VDD SCb[4] Sbuff[3] VSS inv
x6[2] VDD SCb[3] Sbuff[3] VSS inv
x6[1] VDD SCb[2] Sbuff[3] VSS inv
x6[0] VDD SCb[1] Sbuff[3] VSS inv
x7[6] VDD SC[7] SCb[7] VSS inv
x7[5] VDD SC[6] SCb[6] VSS inv
x7[4] VDD SC[5] SCb[5] VSS inv
x7[3] VDD SC[4] SCb[4] VSS inv
x7[2] VDD SC[3] SCb[3] VSS inv
x7[1] VDD SC[2] SCb[2] VSS inv
x7[0] VDD SC[1] SCb[1] VSS inv
x1[6] VDD ST[7] VSS STQ[7] SC[7] xor_custom
x1[5] VDD ST[6] VSS STQ[6] SC[6] xor_custom
x1[4] VDD ST[5] VSS STQ[5] SC[5] xor_custom
x1[3] VDD ST[4] VSS STQ[4] SC[4] xor_custom
x1[2] VDD ST[3] VSS STQ[3] SC[3] xor_custom
x1[1] VDD ST[2] VSS STQ[2] SC[2] xor_custom
x1[0] VDD ST[1] VSS STQ[1] SC[1] xor_custom
x6 VDD Sbuff[3] S[3] VSS buff_d8
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sym # of pins=9
** sym_path: CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sym
** sch_path: CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VINA
*.ipin VINB
*.ipin VINC
*.ipin VIND
*.ipin VS[1],VS[0]
*.ipin VST
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
x1 VDD VINA net1 VS[0] VINB VSS MUX_2_1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1 mm_ok=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sym
** sch_path: CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/6ph_rosc/6ph_rosc.sym # of pins=9
** sym_path: CDR4176-main/schematic/xschem/6ph_rosc/6ph_rosc.sym
** sch_path: CDR4176-main/schematic/xschem/6ph_rosc/6ph_rosc.sch
.subckt 6ph_rosc CTRL PH0 PH3 PH2 PH5 PH4 PH1 VSS VDD
*.iopin VDD
*.iopin VSS
*.ipin CTRL
*.opin PH0
*.opin PH2
*.opin PH5
*.opin PH1
*.opin PH4
*.opin PH3
x1 VDD Ph4_in Ph1_in CTRL Ph3_in Ph0_in VSS psdiff
x2 VDD Ph2_in Ph5_in CTRL Ph1_in Ph4_in VSS psdiff
x3 VDD Ph0_in Ph3_in CTRL Ph5_in Ph2_in VSS psdiff
x4 CTRL Ph0 Ph3 VDD decap
x5 CTRL Ph2 Ph5 VDD decap
x6 CTRL Ph1 Ph4 VDD decap
x7 VDD PH1 Ph1_in VSS buff_d8
x8 VDD PH4 Ph4_in VSS buff_d8
x9 VDD PH5 Ph5_in VSS buff_d8
x10 VDD PH2 Ph2_in VSS buff_d8
x11 VDD PH3 Ph3_in VSS buff_d8
x12 VDD PH0 Ph0_in VSS buff_d8
x19 VDD Ph2 Ph5 VSS flywheel
x17 VDD Ph0 Ph3 VSS flywheel
x13 VDD Ph4 Ph1 VSS flywheel
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/6to4/6to4.sym # of pins=12
** sym_path: CDR4176-main/schematic/xschem/6to4/6to4.sym
** sch_path: CDR4176-main/schematic/xschem/6to4/6to4.sch
.subckt 6to4 VDD PH0 V0 V1 VSS PH90 V2 V3 PH180 V4 PH270 V5
*.opin PH0
*.opin PH90
*.opin PH180
*.opin PH270
*.ipin V0
*.ipin V1
*.ipin V2
*.ipin V3
*.ipin V4
*.ipin V5
*.iopin VDD
*.iopin VSS
x16 VDD V4 v270 V5 VSS PI_clk
x2 VDD V1 v90 V2 VSS PI_clk
x8 VDD net1 V0 VSS inv_PI_d2
x9 VDD net2 V3 VSS inv_PI_d2
x10 VDD v360 net1 VSS inv_PI_d2
x11 VDD v180 net2 VSS inv_PI_d2
x7 VDD v180 v360 VSS flywheel_clk
x12 VDD v270 v90 VSS flywheel_clk
x1 VDD PH0 v360 VSS buff_PI_d32
x4 VDD PH90 v90 VSS buff_PI_d32
x3 VDD PH180 v180 VSS buff_PI_d32
x5 VDD PH270 v270 VSS buff_PI_d32
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv/inv.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv/inv.sym
** sch_path: CDR4176-main/schematic/xschem/inv/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/nor_x3_custom/nor_x3_custom.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/nor_x3_custom/nor_x3_custom.sym
** sch_path: CDR4176-main/schematic/xschem/nor_x3_custom/nor_x3_custom.sch
.subckt nor_x3_custom VDD A B C OUT VSS
*.iopin VDD
*.iopin VSS
*.ipin B
*.ipin C
*.opin OUT
*.ipin A
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT C net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 net1 B net2 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM5 net2 A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM6 OUT C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/nor_custom/nor_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/nor_custom/nor_custom.sym
** sch_path: CDR4176-main/schematic/xschem/nor_custom/nor_custom.sch
.subckt nor_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT B net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 OUT B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 net1 A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/nand_custom/nand_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/nand_custom/nand_custom.sym
** sch_path: CDR4176-main/schematic/xschem/nand_custom/nand_custom.sch
.subckt nand_custom VDD OUT A B VSS
*.iopin VDD
*.iopin VSS
*.ipin A
*.ipin B
*.opin OUT
XM1 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 net1 B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/and_custom/and_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/and_custom/and_custom.sym
** sch_path: CDR4176-main/schematic/xschem/and_custom/and_custom.sch
.subckt and_custom VDD OUT A B VSS
*.ipin A
*.iopin VDD
*.opin OUT
*.iopin VSS
*.ipin B
x1 VDD OUT net1 VSS inv
x2 VDD net1 A B VSS nand_custom
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/or_custom/or_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/or_custom/or_custom.sym
** sch_path: CDR4176-main/schematic/xschem/or_custom/or_custom.sch
.subckt or_custom VDD A OUT B VSS
*.iopin VDD
*.iopin VSS
*.opin OUT
*.ipin A
*.ipin B
x1 VDD A net1 B VSS nor_custom
x2 VDD OUT net1 VSS inv
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/nand_x3_custom/nand_x3_custom.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/nand_x3_custom/nand_x3_custom.sym
** sch_path: CDR4176-main/schematic/xschem/nand_x3_custom/nand_x3_custom.sch
.subckt nand_x3_custom VDD OUT A B C VSS
*.ipin A
*.ipin B
*.ipin C
*.iopin VSS
*.iopin VDD
*.opin OUT
XM2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 OUT C VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM5 net1 B net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM6 net2 C VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/xor_custom/xor_custom.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/xor_custom/xor_custom.sym
** sch_path: CDR4176-main/schematic/xschem/xor_custom/xor_custom.sch
.subckt xor_custom VDD B VSS VOUT A
*.ipin A
*.ipin B
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1 VDD Bb B VSS inv
x3 A Bb B VOUT VDD VSS tg_custom
x2 B VDD A VSS Bb VOUT inv_xor
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/buff_d8/buff_d8.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/buff_d8/buff_d8.sym
** sch_path: CDR4176-main/schematic/xschem/buff_d8/buff_d8.sch
.subckt buff_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv
x8 VDD net2 net1 VSS inv_d2
x9 VDD net3 net2 VSS inv_d4
x10 VDD VOUT net3 VSS inv_d8
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sym
** sch_path: CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x12 VDD tieh VSS tieh_custom
x7 VDD tiel VSS tiel_custom
x14 net4 tiel tieh net2 VDD VSS tg_custom
x15[1] net4 net1 VS net2 VDD VSS tg_custom
x15[0] net4 net1 VS net2 VDD VSS tg_custom
x16 net5 VS net1 net3 VDD VSS tg_custom
x17[1] net5 tiel tieh net3 VDD VSS tg_custom
x17[0] net5 tiel tieh net3 VDD VSS tg_custom
x10 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x9 VDD net3 VINB VSS inv_PI
x11 VOUT tieh tiel net4 VDD VSS tg_custom
x13 VOUT tieh tiel net5 VDD VSS tg_custom
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/psdiff/psdiff.sym # of pins=7
** sym_path: CDR4176-main/schematic/xschem/psdiff/psdiff.sym
** sch_path: CDR4176-main/schematic/xschem/psdiff/psdiff.sch
.subckt psdiff VDD VOUTDN VOUTDP CTRL CLKN CLKP VSS
*.iopin VSS
*.ipin CLKP
*.ipin CLKN
*.iopin VDD
*.ipin CTRL
*.opin VOUTDN
*.opin VOUTDP
XM1 net1 CLKP VSS VSS sg13_lv_nmos w=1.5u l=0.13u ng=10 m=3 mm_ok=1
XM2 net2 CLKN VSS VSS sg13_lv_nmos w=1.5u l=0.13u ng=10 m=3 mm_ok=1
XM3 net3 CTRL net1 VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1 mm_ok=1
XM4 net4 CTRL net2 VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1 mm_ok=1
XM6 net2 net3 VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=1 mm_ok=1
XM5 net1 net4 VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=1 mm_ok=1
XM7 net1 VSS VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=2 mm_ok=1
XM8 net2 VSS VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=2 mm_ok=1
x1 VDD VOUTDP net2 VSS buff_d8
x2 VDD VOUTDN net1 VSS buff_d8
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/decap/decap.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/decap/decap.sym
** sch_path: CDR4176-main/schematic/xschem/decap/decap.sch
.subckt decap CTRL VOUTDN VOUTDP VDD
*.ipin CTRL
*.ipin VDD
*.ipin VOUTDN
*.ipin VOUTDP
XM10 CTRL VOUTDP CTRL VDD sg13_lv_pmos w=8u l=0.13u ng=8 m=4 mm_ok=1
XM9 CTRL VOUTDN CTRL VDD sg13_lv_pmos w=8u l=0.13u ng=8 m=4 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/flywheel/flywheel.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/flywheel/flywheel.sym
** sch_path: CDR4176-main/schematic/xschem/flywheel/flywheel.sch
.subckt flywheel VDD PH1 PH0 VSS
*.iopin VDD
*.iopin VSS
*.iopin PH1
*.iopin PH0
x13 VDD PH1 PH0 VSS inv_d2
x14 VDD PH0 PH1 VSS inv_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/PI_clk/PI_clk.sym # of pins=5
** sym_path: CDR4176-main/schematic/xschem/PI_clk/PI_clk.sym
** sch_path: CDR4176-main/schematic/xschem/PI_clk/PI_clk.sch
.subckt PI_clk VDD PH0 PHOUT PH1 VSS
*.iopin VDD
*.iopin VSS
*.ipin PH0
*.ipin PH1
*.opin PHOUT
x5 VDD net1 PH0 VSS inv_PI_d2
x6 VDD net1 PH1 VSS inv_PI_d2
x7 VDD PHOUT net1 VSS inv_PI_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/flywheel_clk/flywheel_clk.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/flywheel_clk/flywheel_clk.sym
** sch_path: CDR4176-main/schematic/xschem/flywheel_clk/flywheel_clk.sch
.subckt flywheel_clk VDD PH1 PH0 VSS
*.iopin VDD
*.iopin VSS
*.iopin PH1
*.iopin PH0
x13 VDD PH1 PH0 VSS inv_d4
x14 VDD PH0 PH1 VSS inv_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/buff_PI_d32/buff_PI_d32.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/buff_PI_d32/buff_PI_d32.sym
** sch_path: CDR4176-main/schematic/xschem/buff_PI_d32/buff_PI_d32.sch
.subckt buff_PI_d32 VDD VOUT VIN VSS
*.opin VOUT
*.iopin VSS
*.iopin VDD
*.ipin VIN
x5 VDD net2 VIN VSS buff_PI_d16
x15 VDD net1 net2 VSS inv_PI_d16
x20 VDD VOUT net1 VSS inv_PI_d32
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym
** sch_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_xor/inv_xor.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/inv_xor/inv_xor.sym
** sch_path: CDR4176-main/schematic/xschem/inv_xor/inv_xor.sch
.subckt inv_xor VDD VBP VIN VBN VSS VOUT
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
*.iopin VBP
*.iopin VBN
XM2 VOUT VIN VDD VBP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 VOUT VIN VSS VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_d2/inv_d2.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_d2/inv_d2.sym
** sch_path: CDR4176-main/schematic/xschem/inv_d2/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_d4/inv_d4.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_d4/inv_d4.sym
** sch_path: CDR4176-main/schematic/xschem/inv_d4/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_d8/inv_d8.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_d8/inv_d8.sym
** sch_path: CDR4176-main/schematic/xschem/inv_d8/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/tieh_custom/tieh_custom.sym # of pins=3
** sym_path: CDR4176-main/schematic/xschem/tieh_custom/tieh_custom.sym
** sch_path: CDR4176-main/schematic/xschem/tieh_custom/tieh_custom.sch
.subckt tieh_custom VDD VOUT VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
XM2 VOUT net1 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 net1 net1 VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/tiel_custom/tiel_custom.sym # of pins=3
** sym_path: CDR4176-main/schematic/xschem/tiel_custom/tiel_custom.sym
** sch_path: CDR4176-main/schematic/xschem/tiel_custom/tiel_custom.sch
.subckt tiel_custom VDD VOUT VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
XM2 net1 net1 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 VOUT net1 VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d32/inv_PI_d32.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d32/inv_PI_d32.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d32/inv_PI_d32.sch
.subckt inv_PI_d32 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d16
x1[0] VDD VOUT VIN VSS inv_PI_d16
.ends

.end
